US08048887B2
2-(4-Fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide was prepared from the alkylation of 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-(methylsulfonamido)benzofuran-3-carboxamide using (2-bromoethoxy)(tert-butyl)dimethylsilane (K2CO3, DMF 55° C.) followed by deprotection using HCl in 1,4-dioxane at r.t. Purification was preformed by Shimadzu-VP preparative reverse phase HPLC using the separation method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=10 min, Stop time=12 min, Flow Rate=25 mL/min, Column: Waters-Sunfire 19×100 mm S5, Fraction Collection: 6.32-6.81 min. (UV detection at 220 nm). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=656.06, HPLC Rt=1.563 min. Analytical HPLC were performed by using Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: Solvent A=5% MeCN-95% H2O-0.1% TFA, Solvent B=95% MeCN-5% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: Sunfire C18, 3.5 um, 4.6×150 mm, Rt=6.05 min; XBridge phenyl 3.5 um, 4.6×150 mm, Rt=5.38 min. Analytical HPLC method: Solvent A=5% MeOH-95% H2O-10 mM NH4HCO3, Solvent B=95% MeOH-5% H2O-10 mM NH4HCO3, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: XBridge phenyl 3.5 um, 4.6×150 mm, Rt=11.42 min.

reactant | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-(methylsulfonamido)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)NS(=O)(=O)C)C2=C(C=CC(=C2)C(NC2(CC2)C2=CC=CC=C2)=O)C | C34H30FN3O5S
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)CCO)C2=C(C=CC(=C2)C(NC2(CC2)C2=CC=CC=C2)=O)C | C36H34FN3O6S
